US08754100B2
Synthesis of 8-(5-isopropyl-4-methoxy-2-methylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
5-Chloro-2-(5-isopropyl-4-methoxy-2-methylphenyl)pentanoic acid hydrazide (4.4 g) and cyanamide (3.6 g) were dissolved in ethanol (150 mL). p-Toluenesulfonic acid monohydrate (4 g) was added and the mixture was heated under reflux at 80° C. for two hours. After cooling to room temperature, triethylamine (9.8 mL) was added and the mixture was further heated under reflux at 80° C. for three days. The reaction solution was concentrated under reduced pressure. A sodium bicarbonate solution and ethyl acetate were added and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (2.4 g). The property values of the compound are as follows.

reactant | 5-Chloro-2-(5-isopropyl-4-methoxy-2-methylphenyl)pentanoic acid hydrazide | 4.4 g | ClCCCC(C(=O)NN)C1=C(C=C(C(=C1)C(C)C)OC)C | C16H25ClN2O2
reactant | cyanamide | 3.6 g | N#CN | CH2N2
reactant | p-Toluenesulfonic acid monohydrate | 4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | triethylamine | 9.8 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 8-(5-isopropyl-4-methoxy-2-methylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 2.4 g | C(C)(C)C=1C(=CC(=C(C1)C1C=2N(CCC1)N=C(N2)N)C)OC | C17H24N4O
